US08227458B2
trans-4-(4-Fluoro-phenoxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(4-fluoro-phenoxy)-cyclohexanecarboxylic acid methyl ester (0.23 g, 0.93 mmol) and hydrazine hydrate (0.046 g, 0.91 mmol) was heated at 120° C. for 3.5 h. After cooling to room temperature the reaction mixture was suspended in toluene (70 ml). After evaporation of the solvent, the residue was suspended in toluene (70 ml) again. The solvent was evaporated and the residue was dried in high vacuo (1-2 mbar) to give the crude title compound (0.22 g, 96%) as white solid, which was used in the next step without further purification. MS m/e: 253 (M+H+).

reactant | trans-4-(4-fluoro-phenoxy)-cyclohexanecarboxylic acid methyl ester | 0.93 mmol, 0.23 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C=C1)F | C14H17FO3
reactant | hydrazine hydrate | 0.91 mmol, 0.046 g | O.NN
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | trans-4-(4-Fluoro-phenoxy)-cyclohexanecarboxylic acid hydrazide | 0.22 g, 96% | FC1=CC=C(O[C@@H]2CC[C@H](CC2)C(=O)NN)C=C1 | C13H17FN2O2
